US05770615
Following the procedure described in part E of Example 1 (R), (S)-α-[[2-[((1,1-dimethylethyl)dimethylsilyl)oxy]-2-[4-hydroxy-3-[(methylsulfonyl)amino]phenyl]ethyl]amino]-4-methoxybenzeneacetic acid was condensed with 3-aminophenylcarbamic acid, propyl ester to generate the title compound. The 3-aminophenylcarbamic acid, propyl ester was prepared by sequentially treating commercial 3-nitrophenyl isocyanate with PrOH containing Et3N at 80° C. for 12 hours followed by reduction with Na2S2O4 in THF/H2O at 100° C.

reactant | 3-nitrophenyl isocyanate | [N+](=O)([O-])C=1C=C(C=CC1)N=C=O | C7H4N2O3
reactant | PrOH | C(CC)O | C3H8O
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | Na2S2O4 | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | THF H2O | C1CCOC1.O
product | 3-aminophenylcarbamic acid, propyl ester | NC=1C=C(C=CC1)NC(OCCC)=O | C10H14N2O2
